US05635510
44.1 Synthesis of 2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-phenacyl)-pyrrolidin-3-yl]-ethanol
Prepare by the method of example 3.1 using 2-[3-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethanol (2 mmol) and 3,4,5-trimethoxy-phenacyl chloride (2 mmol). Chromatograph on silica gel to give the title compound. Rf =0.45 (6% methanol/dichloromethane).

reactant | 2-[3-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethanol | 2 mmol | ClC=1C=C(C=CC1Cl)C1(CNCC1)CCO | C12H15Cl2NO
reactant | 3,4,5-trimethoxy-phenacyl chloride | 2 mmol | COC=1C=C(C(CCl)=O)C=C(C1OC)OC | C11H13ClO4
product | 2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-phenacyl)-pyrrolidin-3-yl]-ethanol | ClC=1C=C(C=CC1Cl)C1(CN(CC1)CC(=O)C1=CC(=C(C(=C1)OC)OC)OC)CCO | C23H27Cl2NO5
